US08247610B2
a) 4-Methyl-2-[4′-trifluoromethyl-5-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-yl)-biphenyl-3-yl]-pentanoic acid methyl ester
The title compound was prepared in 8% yield from 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid methyl ester and 7-(trifluoromethyl)-1,2,3,4-tetrahydroquinoline under the conditions described in Example 24, step (a).

reactant | 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C21H20F6O5S
reactant | 7-(trifluoromethyl)-1,2,3,4-tetrahydroquinoline | FC(C1=CC=C2CCCNC2=C1)(F)F | C10H10F3N
product | 4-Methyl-2-[4′-trifluoromethyl-5-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-yl)-biphenyl-3-yl]-pentanoic acid methyl ester | 8% yield | COC(C(CC(C)C)C=1C=C(C=C(C1)N1CCCC2=CC=C(C=C12)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C30H29F6NO2
